US06531476B1
Working again according to a protocol identical to the one used in step 1.3 of Example 1, followed by treating, under the same conditions as those of step 1.4 of Example 1, 0.5 g of 2-(1′-piperidinocarbonyloxymethyl)piperazine hydrochloride with 1.1 g of 3,4,5-trimethoxybenzoyl chloride, 0.8 g of 1,4-bis(3′,4′,5′-trimethoxybenzoyl)-2-(1′-piperidinocarbonyloxymethyl)piperazine is obtained. Yield: 56%. Melting point: 146.7° C.

reactant | 2-(1′-piperidinocarbonyloxymethyl)piperazine hydrochloride | 0.5 g | Cl.N1(CCCCC1)C(=O)OCC1NCCNC1
reactant | 3,4,5-trimethoxybenzoyl chloride | 1.1 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
product | 1,4-bis(3′,4′,5′-trimethoxybenzoyl)-2-(1′-piperidinocarbonyloxymethyl)piperazine | 0.8 g, Yield: 56% | COC=1C=C(C(=O)N2C(CN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)COC(=O)N2CCCCC2)C=C(C1OC)OC | C31H41N3O10
